US09399630B2
As per the process described in CN'932 publication, vilazodone is prepared by reacting 3-(4-chlorobutyryl)-1H-indole-5-carbonitrile with sodium borohydride in isopropanol at reflux temperature, followed by treating the reaction mass with dilute hydrochloric acid and subsequent workup and then subjecting to column chromatography purifications to produce 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile. The hydroxylbutyl intermediate obtained is then subjected to sulfonylation using a sulfonylating agent selected from p-toluenesulfonyl chloride, benzenesulfonyl chloride, methanesulfonyl chloride and trifluoromethanesulfonyl chloride to produce corresponding sulfonylated intermediate, which is then condensed with 5-(1-piperazinyl)benzofuran-2-carboxamide in acetonitrile to produce vilazodone.

reactant | vilazodone | C1=CC2=C(C=C1C#N)C(=CN2)CCCCN3CCN(CC3)C=4C=CC5=C(C4)C=C(O5)C(=O)N | C26H27N5O2
reactant | 3-(4-chlorobutyryl)-1H-indole-5-carbonitrile | ClCCCC(=O)C1=CNC2=CC=C(C=C12)C#N | C13H11ClN2O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile | OCCCCC1=CNC2=CC=C(C=C12)C#N | C13H14N2O
